US08084395B2
800 mg of N-bromosuccinimide (4 mmole) is added to a solution of 720 mg (3.7 mmoles) of 2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine in tetrachloromethane. The brown reaction mixture is stirred 5 hours at 50° C. and concentrated. The brown residue is purified by chromatography on silica gel (ethylacetate/methanol 9/1) to give 650 mg of 3-Bromo-2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine as white crystals.

reactant | N-bromosuccinimide | 4 mmole, 800 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine | 3.7 mmoles, 720 mg | N1=CC=C(C=C1)C1=CC2=NC=CC=C2N1 | C12H9N3
solvent | tetrachloromethane | ClC(Cl)(Cl)Cl | CCl4
product | 3-Bromo-2-pyridin-4-yl-1H-pyrrolo[3,2-b]pyridine | 650 mg | BrC1=C(NC=2C1=NC=CC2)C2=CC=NC=C2 | C12H8BrN3
